US07608629B2
Preparation 64. 4-(6-Amino-pyridin-2-yloxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2
Combine 4-[6-(benzhydrylidene-amino)-pyridin-2-yloxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2 (preparation 62, 1.19 g) in methanol (30 mL), add sodium acetate (0.497 g), and hydroxyamine hydrochloride (0.316 g) and stir at room temperature. After 1 hr., partition between dichloromethane and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column, eluting with dichloromethane-2M NH3 in methanol, gradient) to give the title compound (0.687 g). 1H NMR (CDCl3): 7.33 (t, 1H), 6.03 (m, 21), 5.25 (m, 1H), 4.33 (m, 3H), 3.87 (m, 1H), 3.25 (m, 1H), 1.91 (m, 3H), 1.73 (m, 1H), 1.46 (s, 9H), 1.27 (d, 3H).

reactant | 4-[6-(benzhydrylidene-amino)-pyridin-2-yloxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=NC(=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C29H33N3O3
reactant | sodium acetate | 0.497 g | C(C)(=O)[O-].[Na+]
reactant | hydroxyamine hydrochloride | 0.316 g | Cl.ON
solvent | methanol | 30 mL | CO | CH4O
product | 4-(6-Amino-pyridin-2-yloxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.687 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=NC(=CC=C1)N)C | C16H25N3O3
